US04025528
A mixture of 2-chlorothiazole (5.0 g), ethyl 2-(4-hydroxyphenyl)propionate (8.1 g), potassium carbonate powder (8.65 g) and dimethylformamide (80 ml) is stirred at 150°-155° C. for 2.5 hours. The solvent is distilled out under reduced pressure. To the residue is added water and extracted with ether. The extract is washed with a 10% aqueous solution of sodium hydroxide and water and dried. The ether is evaporated. The residue is subjected to chromatography using silica gel and eluted with 50% benzene-hexane, benzene and 10% ether-benzene to yield ethyl 2-[4-(2-thiazolyloxy)-phenyl]propionate (5.8 g). IR νmaxCCl4 1740, 1240, 700 cm-1.

reactant | 2-chlorothiazole | 5.0 g | ClC=1SC=CN1 | C3H2ClNS
reactant | ethyl 2-(4-hydroxyphenyl)propionate | 8.1 g | OC1=CC=C(C=C1)C(C(=O)OCC)C | C11H14O3
reactant | potassium carbonate | 8.65 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[4-(2-thiazolyloxy)-phenyl]propionate | 5.8 g | S1C(=NC=C1)OC1=CC=C(C=C1)C(C(=O)OCC)C | C14H15NO3S
